US08110581B2
Step 3. (5S)-2-(2-chlorophenyl)-2,7-diazaspiro[4.5]decan-1-one hydrochloride
Hydrogen chloride (4.0 M in 1,4-dioxane, 2.0 mL) was added to a solution of tert-butyl (5S)-2-(2-chlorophenyl)-1-oxo-2,7-diazaspiro[4.5]decane-7-carboxylate (0.103 g, 0.000283 mol) in ethyl acetate (0.5 mL) and the mixture was stirred for 2 h. Then the solvent was removed in-vacuo to afford the desired product. LC-MS: 265.2 (M+H)+.

reactant | Hydrogen chloride | 4.0 M, 2.0 mL | Cl | ClH
reactant | tert-butyl (5S)-2-(2-chlorophenyl)-1-oxo-2,7-diazaspiro[4.5]decane-7-carboxylate | 0.000283 mol, 0.103 g | ClC1=C(C=CC=C1)N1C([C@@]2(CC1)CN(CCC2)C(=O)OC(C)(C)C)=O | C19H25ClN2O3
solvent | ethyl acetate | 0.5 mL | C(C)(=O)OCC | C4H8O2
product | (5S)-2-(2-chlorophenyl)-2,7-diazaspiro[4.5]decan-1-one hydrochloride | Cl.ClC1=C(C=CC=C1)N1C([C@@]2(CC1)CNCCC2)=O | InChI=1S/C14H17ClN2O.ClH/c15-11-4-1-2-5-12(11)17-9-7-14(13(17)18)6-3-8-16-10-14;/h1-2,4-5,16H,3,6-10H2;1H/t14-;/m0./s1
